US04077965
7-Methylthioacetamido-3-(5-aminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (2.0 g.) was dissolved in a mixture of triethylamine (0.9 g.), water (20 ml.) and tetrahydrofuran (30 ml.). To this solution was added dropwise a solution of acetyl chloride (0.53 g.) in tetrahydrofuran (10 ml.) at 0°-5° C. The mixture was stirred at the same temperature for an hour, and then the tetrahydrofuran was distilled off under reduced pressure. The remaining solution was washed with ethyl acetate (100 ml. ), adjusted to pH1 with 10% hydrochloric acid and then extracted with ethyl acetate (200 ml.). The extract was washed with a saturated aqueous solution of sodium chloride, and the ethyl acetate was evaporated under reduced pressure. The residue was washed with acetone and then with ether to give 7-methylthioacetamido-3-(5-acetamidomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (1.4 g.). m.p. 145°-150° C (dec.).

reactant | 7-Methylthioacetamido-3-(5-aminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.0 g | CCC(=S)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CN)C(=O)O)C1=O | C14H17N5O3S4
reactant | acetyl chloride | 0.53 g | C(C)(=O)Cl | C2H3ClO
solvent | triethylamine | 0.9 g | C(C)N(CC)CC | C6H15N
solvent | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 7-methylthioacetamido-3-(5-acetamidomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.4 g | CCC(=S)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CNC(C)=O)C(=O)O)C1=O | C16H19N5O4S4
